US08034811B2
O-Cyclooctylmethyl-hydroxylamine
Prepared by a similar procedure as described for preparation 31. Starting materials: N-hydroxyphthalimide and cyclooctanemethanol (Acros). 13C-NMR (CDCl3) δ 82.3, 36.4, 29.4, 27.0, 26.5, 25.5.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | cyclooctanemethanol | C1(CCCCCCC1)CO | C9H18O
product | O-Cyclooctylmethyl-hydroxylamine | C1(CCCCCCC1)CON | C9H19NO
